US06376512B1
A solution of 3-aminobenzonitrile (10 mmol) in 50 ml of chloroform and triethylamine (11 mmol) is added to a solution of 10 mmol of 3-(2-quinolinylmethyloxy)benzoic acid chloride in 20 ml of chloroform over a period of 10 minutes. The reaction is stirred at room temperature for 2 hours and is poured into water and then extracted into chloroform. The organic solution is dried and evaporated to give 3-(3-(2-quinolinylmethyloxy)benzoylamino)benzonitrile.

reactant | 3-aminobenzonitrile | 10 mmol | NC=1C=C(C#N)C=CC1 | C7H6N2
reactant | triethylamine | 11 mmol | C(C)N(CC)CC | C6H15N
reactant | 3-(2-quinolinylmethyloxy)benzoic acid chloride | 10 mmol | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C(=O)Cl)C=CC1 | C17H12ClNO2
reactant | water | O | H2O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(3-(2-quinolinylmethyloxy)benzoylamino)benzonitrile | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C(=O)NC=2C=C(C#N)C=CC2)C=CC1 | C24H17N3O2
